* C:\users\marc-antoine\Bureau\bass-amplifier\simulation\Draft1.asc
V1 V+15 0 15
V2 0 V-15 15
V3 N002 0 SINE(0 1 60) AC 1
V4 V+3.3 0 3.3
C1 N003 N002 10µ
V5 V+1.65 0 1.65
XU1 N003 N001 V+15 V-15 N001 AD8510
R1 V+3.3 N003 10k
R2 N001 N004 10k
R3 N004 0 10k
.tran 0.1
;ac oct 100 1 20000
.lib ADI.lib
.backanno
.end
