* C:\users\marc-antoine\Bureau\bass-amplifier\simulation\Draft2.asc
R1 N005 N003 10k
C1 0 N005 0.001µ
V1 N003 0 AC 1
V2 v+15 0 15
V3 0 v-15 15
XU1 N004 N002 v+15 v-15 N002 AD820
R2 N004 N001 15k
R3 N001 N003 15k
C2 N002 N001 0.001µ
C3 0 N004 0.001µ
.ac oct 100 1 24000
.lib ADI1.lib
.backanno
.end
